US07449582B2
Step B: Preparation of 3-(2,6-dichloro-3-nitro-phenyl)-1H-quinolin-2-one
A solution of 2-(2,6-dichloro-3-nitro-phenyl)-N-(2-formyl-phenyl)-acetamide (0.7 g, 1.99 mmol) and Na2CO3 (1.0 g) in MeOH (150 mL) is heated for 30 minutes at 70° C. After filtration of the reaction mixture, the solvent is removed by concentration to give crude product. The crude product is purified by flash silica gel column, eluting with CH2Cl2 (100%) gradient to CH2Cl2/MeOH (2N NH3) (97/3%), resulting in the titled intermediate as a solid (0.288 g, 41.3%).

reactant | 2-(2,6-dichloro-3-nitro-phenyl)-N-(2-formyl-phenyl)-acetamide | 1.99 mmol, 0.7 g | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)CC(=O)NC1=C(C=CC=C1)C=O | C15H10Cl2N2O4
reactant | Na2CO3 | 1.0 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | MeOH | 150 mL | CO | CH4O
product | 3-(2,6-dichloro-3-nitro-phenyl)-1H-quinolin-2-one | 0.288 g, 41.3% | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)C=1C(NC2=CC=CC=C2C1)=O | C15H8Cl2N2O3
